US06794512B2
6-[4-cyano-5-(2,2-dimethyl-propoxy)-3-trifluoromethyl-pyrazol-1-yl]-pyridine-3-sulfonic acid amide
6-[5-chloro-4-cyano-3-trifluoromethyl-pyrazol-1-yl]-pyridine-3-sulfonic acid dimethyl-aminomethyleneamide (81.3 mg, 0.2 mmol) and 2,2-dimethyl-1-propanol (35.3 mg, 0.4 mmol) were dissolved in dry DMSO (0.5 ml) and cesium fluoride (60.7 mg, 0.4 mmol) was added to the solution. The resulting mixture was stirred at 20° C. for a period of 24 hours. Analytical HPLC indicated the reaction completion. The reaction mixture was poured into water (2 ml) and the resulting mixture was extracted with ethyl acetate (2 ml). The ethyl acetate mixture was filtered into a vial and evaporated to dryness under nitrogen atmosphere to leave a residue. Acetonitrile (2 ml) was added, and the mixture shaken to dissolve the residue. 2N HCl (1.5 ml) was added into the acetonitrile mixture, and the reaction mixture warmed to 70° C. for a period of 18 hours. After cooling down, the acetonitrile was evaporated under reduced pressure, and ethyl acetate (5 ml) was added to the evaporated mixture with stirring. The ethyl acetate layer was then separated, washed with saturated sodium chloride (5 ml), dried over magnesium sulfate and concentrated. HPLC purification of the residue obtained above gives the title compound. (37.6 mg, 46%). MS: 404.5, r.t.: 2.7.

reactant | 6-[5-chloro-4-cyano-3-trifluoromethyl-pyrazol-1-yl]-pyridine-3-sulfonic acid dimethyl-aminomethyleneamide | 0.2 mmol, 81.3 mg | CN(C=NS(=O)(=O)C=1C=NC(=CC1)N1N=C(C(=C1Cl)C#N)C(F)(F)F)C | C13H10ClF3N6O2S
reactant | 2,2-dimethyl-1-propanol | 0.4 mmol, 35.3 mg | CC(CO)(C)C | C5H12O
reactant | cesium fluoride | 0.4 mmol, 60.7 mg | [F-].[Cs+]
reactant | HCl | 2N, 1.5 ml | Cl | ClH
solvent | DMSO | 0.5 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | C(C)#N | C2H3N
solvent | Acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
product | 6-[4-cyano-5-(2,2-dimethyl-propoxy)-3-trifluoromethyl-pyrazol-1-yl]-pyridine-3-sulfonic acid amide | C(#N)C=1C(=NN(C1OCC(C)(C)C)C1=CC=C(C=N1)S(=O)(=O)N)C(F)(F)F | C15H16F3N5O3S
